US07067517B2
The crude 4-(6-methoxy-pyridin-3-ylcarbamoyl)-butyryl chloride was redissolved in dichloromethane (25 mL). Thionyl chloride (5.95 g, 50 mmol) was added and the solution was heated to reflux overnight. The solvent and excess thionyl chloride were evaporated in vacuo, yielding 6′-methoxy-4,5-dihydro-3H-[1,3′]bipyridinyl-2,6-dione hydrochloride, which was used without further purification.

reactant | 4-(6-methoxy-pyridin-3-ylcarbamoyl)-butyryl chloride | COC1=CC=C(C=N1)NC(=O)CCCC(=O)Cl | C11H13ClN2O3
reactant | Thionyl chloride | 50 mmol, 5.95 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 6′-methoxy-4,5-dihydro-3H-[1,3′]bipyridinyl-2,6-dione hydrochloride | Cl.COC1=CC=C(C=N1)N1C(CCCC1=O)=O | InChI=1S/C11H12N2O3.ClH/c1-16-9-6-5-8(7-12-9)13-10(14)3-2-4-11(13)15;/h5-7H,2-4H2,1H3;1H
